US07320972B2
(3R,4S)-3-[(3S)-3-(4-Fluorophenyl)-3-hydroxypropyl]-1-phenyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]azetidin-2-one (51.3 mg, 0.102 mmol) and (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(3-bromophenyl)-D-glucitol (35.5 mg, 0.073 mmol) were dissolved in 2.0 mL of toluene and 0.25 mL of ethanol. 0.075 mL of 4 N potassium carbonate was added to the mixture followed by 5.0 mg of tetrakis(triphenylphosphine)palladium(0). The entire reaction was degassed three times with argon then heated to reflux for 4 h. The reaction was cooled to room temperature, diluted with 5 mL of water, and extracted with ethyl acetate (3×25 mL). The organic layers were combine, dried over sodium sulfate, filtered, concentrated and purified by column chromatography (12 g silica gel, 5% to 95% ethyl acetate-hexane) to afford 10.5 mg (13%) of (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(4′-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)-D-glucitol as a clear oil.

reactant | (3R,4S)-3-[(3S)-3-(4-Fluorophenyl)-3-hydroxypropyl]-1-phenyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]azetidin-2-one | 0.102 mmol, 51.3 mg | FC1=CC=C(C=C1)[C@H](CC[C@H]1C(N([C@@H]1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)=O)O | C30H33BFNO4
reactant | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(3-bromophenyl)-D-glucitol | 0.073 mmol, 35.5 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=CC=C1)Br | C20H23BrO9
reactant | potassium carbonate | 4 N, 0.075 mL | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.25 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(4′-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)-D-glucitol | 10.5 mg, 13% | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=CC=C1 | C44H44FNO11
